US07045529B2
Part A. A solution of 5-amino-4,6-dichloropyrimidine (24.6 g, 150 mmol), 4-methoxybenzylamine (20.0 mL, 150 mmol) and diisopropylethylamine (30.0 mL, 172 mmol) in ethanol (200 mL) was heated to ref lux for 4 days. After cooling, the solution was evaporated and the residue partitioned between water and ethyl acetate. The organic layer was washed with more water and brine, and the three aqueous phases were back-extracted in sequence with ethyl acetate. The extracts were combined, dried over sodium sulfate, filtered and evaporated. The resulting solid was triturated with ether, collected by filtration and dried under vacuum to afford pure product, 5-amino-4-chloro-6-(4-methoxybenzylamino)pyrimidine. m.p. 187-188° C. TLC RF 0.11 (30:70 ethyl acetate-hexane). 1H NMR (300 MHz, CDCl3): Δ 8.12 (1H, s), 7.33 (2H! d, J=9.0 Hz), 6.89 (2H, d, J=9.0 Hz), 5. 01 (1H, br), 4. 61 (2H, d, J=5. 1 Hz), 3. 81 (3H, s), 3.35 (2H, br). MS (NH3-CI): m/e 268 (4), 267 (31), 266 (15), 265 (100).

reactant | 5-amino-4,6-dichloropyrimidine | 150 mmol, 24.6 g | NC=1C(=NC=NC1Cl)Cl | C4H3Cl2N3
reactant | 4-methoxybenzylamine | 150 mmol, 20.0 mL | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | diisopropylethylamine | 172 mmol, 30.0 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 5-amino-4-chloro-6-(4-methoxybenzylamino)pyrimidine | NC=1C(=NC=NC1NCC1=CC=C(C=C1)OC)Cl | C12H13ClN4O
